US04306065
2-Phenyl-4-[cis-2,5-dimethyl-4-(2-pyridinyl)-1-piperazinyl]quinazoline
A mixture containing 8.4 g (0.03 mole) of 2-phenyl-4-chloroquinazoline, 6.3 g (0.0335 mole) of 1-(2-pyridyl)-cis-2,5-dimethylpiperazine and 200 ml of isopropanol was refluxed for 6 hrs. The resulting reaction mixture was filtered after cooling to room temperature. A crystalline solid was obtained. The crude product was dissolved in 3N hydrochloric acid and extracted with ether. The aqueous acidic solution was adjusted to pH=7.5 and filtered. Yield of crystalline solid was 4.3 g, m.p. 68°-70° C.

reactant | 2-phenyl-4-chloroquinazoline | 0.03 mole, 8.4 g | C1(=CC=CC=C1)C1=NC2=CC=CC=C2C(=N1)Cl | C14H9ClN2
reactant | 1-(2-pyridyl)-cis-2,5-dimethylpiperazine | 0.0335 mole, 6.3 g | N1=C(C=CC=C1)N1[C@H](CN[C@H](C1)C)C | C11H17N3
reactant | isopropanol | 200 ml | C(C)(C)O | C3H8O
solvent | hydrochloric acid | 3N | Cl | ClH
product | 2-Phenyl-4-[cis-2,5-dimethyl-4-(2-pyridinyl)-1-piperazinyl]quinazoline | C1(=CC=CC=C1)C1=NC2=CC=CC=C2C(=N1)N1[C@H](CN([C@H](C1)C)C1=NC=CC=C1)C | C25H25N5
